US20010012596A1
70.a 1-(4-Methoxynaphthyl)-octan-1,2-dione 2-oxime
10.0 g (35.2 mmol) of 1-(4-methoxynaphthyl)-octan-1-one are dissolved in 35 mL of t-butyl methyl ether. HCl-gas is introduced into this solution under cooling in an ice bath, and methyl nitrite-gas, which is genarated by adding H2SO4 aq. solution (3.5 mL of conc. H2SO4 and 7 mL of H20) into NaNO2 (3.65 g, 52.7 mmol) in methanol (3 mL) and H2O (3 mL), is introduced for 10 min at an ice-bath temperature. Then, the reaction solution is poured into ice, and the crude product is extracted with t-butyl methyl ether. This ether layer is washed with saturated NaHCO3 aq. solution and brine, dried over anhydrous MgSO4, and then condensed. The residue is applied to column chromatography on silica gel with ethyl acetate - hexane (10:90) as eluent. 2.02 g of yellow solid are obtained (18%). M.p. 92-93° C. 1H-NMR spectrum (CDCl3). δ [ppm]: 0.90 (t, 3H), 1.31-1.55 (m, 6H), 1.59-1.65 (m , 2H) 4.06 (s, 3H), 6.80 (d, 1H), 7.51 (t, 1H), 7.58 (t, 1H), 7.72 (d, 1H), 7.75 (d, 1H), 8.33 (d, 1H), 8.44 (d, 1 H).

reactant | 1-(4-methoxynaphthyl)-octan-1-one | 35.2 mmol, 10.0 g | COC1=CC=C(C2=CC=CC=C12)C(CCCCCCC)=O | C19H24O2
reactant | methyl nitrite | N(=O)OC | CH3NO2
reactant | H2SO4 | 3.5 mL | OS(=O)(=O)O | H2O4S
reactant | NaNO2 | 52.7 mmol, 3.65 g | N(=O)[O-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
solvent | H2O | 3 mL | O | H2O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 1-(4-Methoxynaphthyl)-octan-1,2-dione 2-oxime | 2.02 g | COC1=CC=C(C2=CC=CC=C12)C(C(CCCCCC)=NO)=O | C19H23NO3
